US09034895B2
4-(2-(5-methoxy-2-methyl-1H-indol-1-yl)ethyl)morpholine
To a solution of 2-chloroethylmorpholine HCl (138 mg, 0.74 mmol) in 0.3 mL DMSO was added pulverized KOH (104 mg, 1.86 mmol), then after 5 min, a solution of 5-methoxy-2-methylindole (138 mg, 0.74 mmol) in 0.2 mL DMSO was added and the reaction stirred at room temperature overnight. The reaction mixture was partitioned between H2O and toluene, and the organic extract washed two times with H2O, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 0 to 5% MeOH in CH2Cl2 to give a final yield of 120 mg (0.44 mmol). 1H NMR (500 MHz, CDCl3, δ): 2.47 (s, 3H), 2.49-2.62 (m, 4H), 2.66 (t, J=7.3 Hz, 2H), 3.76 (t, J=4.5 Hz, 4H), 3.89 (s, 3H), 4.18 (t, J=7.3 Hz, 2H), 6.22 (s, 1H), 6.86 (dd, J=8.8 Hz, 2.4 Hz, 1H), 7.06 (d, J=2.3 Hz, 1H), 7.21 (d, J=8.8 Hz, 1H). 13C NMR (500 MHz, CDCl3, δ): 12.89, 41.12, 54.15, 55.91, 58.01, 66.98, 99.87, 102.01, 109.45, 110.32, 128.53, 131.82, 137.06, 154.05. MS m/z 275.3 [M+H]+.

reactant | 2-chloroethylmorpholine HCl | 0.74 mmol, 138 mg | Cl.ClCCN1CCOCC1
reactant | KOH | 1.86 mmol, 104 mg | [OH-].[K+]
reactant | 5-methoxy-2-methylindole | 0.74 mmol, 138 mg | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
solvent | DMSO | 0.3 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.2 mL | CS(=O)C | C2H6OS
product | 4-(2-(5-methoxy-2-methyl-1H-indol-1-yl)ethyl)morpholine | COC=1C=C2C=C(N(C2=CC1)CCN1CCOCC1)C | C16H22N2O2
